US07625932B2
Preparation of propane-2-sulfonic acid{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-amide
Add DBU (0.79 mL, 5.3 mmol) to 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethylamine (0.5 g, 1.8 mmol, can be prepared from 4-bromophenyl acetonitrile) in dichloromethane and stir at room temperature. After 10 minutes, cool to 0° C. and add isopropylsulfonylchloride (0.22 mL, 1.95 mmol). After 30 minutes, allow to warm to room temperature. After 3 hours, pour into water and extract with dichloromethane. Wash the combined organics with 1N HCl, water, and brine, dry over magnesium sulfate, filter and concentrate under reduced pressure. Purify the residue by flash chromatography (silica gel), eluting with ethyl acetate:hexanes to provide the title compound. Mass spectrum (ES−)=352.2 (M−1).

reactant | DBU | 5.3 mmol, 0.79 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethylamine | 1.8 mmol, 0.5 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCN)C | C14H22BNO2
reactant | isopropylsulfonylchloride | 1.95 mmol, 0.22 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | propane-2-sulfonic acid{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ethyl}-amide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CCNS(=O)(=O)C(C)C)C | C17H28BNO4S
